US06538000B1
9-(3-Chloro-4-hydroxyphenyl)-5,6,7,9-tetrahydropyrazolo[5,1-b]quinazolin-8(4H)-one
1,3-Cyclohexanedione, 3-chloro-4-hydroxybenzaldehyde and 3-aminopyrazole were processed as described in General Procedure A to provide the title compound.

reactant | 1,3-Cyclohexanedione | C1(CC(CCC1)=O)=O | C6H8O2
reactant | 3-chloro-4-hydroxybenzaldehyde | ClC=1C=C(C=O)C=CC1O | C7H5ClO2
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
product | 9-(3-Chloro-4-hydroxyphenyl)-5,6,7,9-tetrahydropyrazolo[5,1-b]quinazolin-8(4H)-one | ClC=1C=C(C=CC1O)C1N2C(NC=3CCCC(C13)=O)=CC=N2 | C16H14ClN3O2
